US03952007
5-nitro-1-(2-acetoxyethyl)-2-(2-dimethylaminovinyl)imidazole
2,26 g. (0.01 mole) of 5-nitro-1-(2-hydroxyethyl)-2-(2-dimethylaminovinyl)-imidazole and 0.79 g. (0.01 mole) of acetyl chloride were reacted as described in Example 11. After pouring the reaction mixture on ice water, it was extracted with chloroform and the chloroform solution evaporated. The crude red oil exhibited the characteristic UV maxima in methanol:

reactant | 5-nitro-1-(2-hydroxyethyl)-2-(2-dimethylaminovinyl)-imidazole | 0.01 mole | [N+](=O)([O-])C1=CN=C(N1CCO)C=CN(C)C | C9H14N4O3
reactant | acetyl chloride | 0.01 mole | C(C)(=O)Cl | C2H3ClO
product | 5-nitro-1-(2-acetoxyethyl)-2-(2-dimethylaminovinyl)imidazole | [N+](=O)([O-])C1=CN=C(N1CCOC(C)=O)C=CN(C)C | C11H16N4O4
